US08198279B2
1-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)-2-(methylthio)phenyl)urea (AA-065)
Method F2 was used with 8-(4-amino-3-(methylthio)phenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one and 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole to afford the title compound (45 mg, 51%) as a white solid.

reactant | 8-(4-amino-3-(methylthio)phenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one | NC1=C(C=C(OC2=CC=NC=3NC(C(=NC32)C)=O)C=C1)SC | C15H14N4O2S
reactant | 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=CC=C1 | C14H15N3O
product | 1-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)-2-(methylthio)phenyl)urea | 45 mg, 51% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2NC(C(=NC21)C)=O)SC)C2=CC=CC=C2 | C29H29N7O3S
